US07943639B2
tert-Butyl-4-{2-[(3-bromobenzyl)sulfonyl]thieno[3,2-c]pyridin-4-yl}piperazine-1-carboxylate
Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate (0.44 mmol) was treated with 3-bromobenzylbromide (0.59 mmol) as described in Method P above and then reacted further with tert-butyl-piperazine-1-carboxylate as described in Method Q. Yield 0.023 g (10% over two steps). Beige solid. 1H NMR (300 MHz, CDCl3) δ 8.16 (d, J=6 Hz, 1H), 7.50-7.55 (m, 2H), 7.32-7.40 (m, 2H), 7.10-7.24 (m, 3H), 4.44 (s, 2H), 3.61-3.73 (m, 8H), 1.50 (s, 9H); MS (ESI+) for C23H26BrN3O4S2 m/z 554 (M+H)+. HPLC 77%, RT 4.07 min (ACE3 C8 50×4.6 mm, 5-50% acetonitrile in 3 min).

reactant | Lithium 4-chlorothieno[3,2-c]pyridine-2-sulfinate | 0.44 mmol | ClC1=NC=CC2=C1C=C(S2)S(=O)[O-].[Li+]
reactant | 3-bromobenzylbromide | 0.59 mmol | BrC=1C=C(CBr)C=CC1 | C7H6Br2
reactant | tert-butyl-piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-Butyl-4-{2-[(3-bromobenzyl)sulfonyl]thieno[3,2-c]pyridin-4-yl}piperazine-1-carboxylate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=C1C=C(S2)S(=O)(=O)CC2=CC(=CC=C2)Br | C23H26BrN3O4S2
